US06242470B1
5-[[1-Oxo-2-(tricyclo[3.3.1.13,7]dec-1-yl)ethyl]amino]-1H-indole-1-acetic acid, 1,1-dimethylethyl ester
Prepared according to the method of Example 15b) from 5-nitro-1H-indole-1-acetic acid, 1,1-dimethylethyl ester (0.29 g) and 1-adamantaneacetyl chloride (0.20 g) to give the title compound as a white solid (0.24 g).

reactant | 5-nitro-1H-indole-1-acetic acid, 1,1-dimethylethyl ester | 0.29 g | [N+](=O)([O-])C=1C=C2C=CN(C2=CC1)CC(=O)OC(C)(C)C | C14H16N2O4
reactant | 1-adamantaneacetyl chloride | 0.20 g | C12(CC3CC(CC(C1)C3)C2)CC(=O)Cl | C12H17ClO
product | 5-[[1-Oxo-2-(tricyclo[3.3.1.13,7]dec-1-yl)ethyl]amino]-1H-indole-1-acetic acid, 1,1-dimethylethyl ester | 0.24 g | O=C(CC12CC3CC(CC(C1)C3)C2)NC=2C=C3C=CN(C3=CC2)CC(=O)OC(C)(C)C | C26H34N2O3
